US08648066B2
7-(2-cyclopropyl-1H-imidazo[4,5-b]pyridin-6-yl)-4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared according to the method of example 6 by using 1-methylpropyl 2-cyclopropyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate hydrochloride (reagent preparation 19) and 4-chloro-2,6,6-trimethyl-5,6,7,8-tetrahydroquinazoline (reagent preparation 8) in step 3. 1H NMR (400 MHz, methanol-d4) δ 8.50 (s, 1H), 7.98 (s, 1H), 7.61 (d, 1H), 7.49 (dd, 1H), 7.09 (d, 1H), 4.71 (s, 2H), 4.32 (m, 2H), 3.97 (m, 2H), 2.75 (t, 2H), 2.46 (s, 2H), 2.40 (s, 3H), 2.21 (m, 1H), 1.66 (t, 2H), 1.22 (m, 4H), 0.91 (s, 6H); MS (EI) for C29H32N6O: 481 (MH+).

reactant | 1-methylpropyl 2-cyclopropyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate hydrochloride | Cl.C1(CC1)C=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OC(CC)C
reactant | 4-chloro-2,6,6-trimethyl-5,6,7,8-tetrahydroquinazoline | ClC1=NC(=NC=2CCC(CC12)(C)C)C | C11H15ClN2
product | 7-(2-cyclopropyl-1H-imidazo[4,5-b]pyridin-6-yl)-4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | C1(CC1)C=1NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C3=NC(=NC=4CCC(CC34)(C)C)C)C2)N1 | C29H32N6O
